US07285669B2
Bromine (112 g) was added dropwise to a solution of 4-acetamidocyclohexanone (100 g) in 500 ml water at room temperature. The mixture was warmed to approximately 45° C. and maintained at this temperature until the bromine colour had been lost. To this, thiourea (125 g) was added, and the mixture was heated to approximately 80° C. To this, aqueous hydrobromic acid (100 ml) was added, and the contents of the reaction vessel were refluxed. The contents were then cooled to approximately 10° C., and neutralized with caustic lye solution. The product, 2,6-diamino-4,5,6,7-tetrahydro-benzthiazole, was isolated by filtration, and washed with chilled water and dried. The product was off-white in colour, and the yield was approximately 60 g in weight.

reactant | Bromine | 112 g | BrBr | Br2
reactant | 4-acetamidocyclohexanone | 100 g | C(C)(=O)NC1CCC(CC1)=O | C8H13NO2
reactant | thiourea | 125 g | NC(=S)N | CH4N2S
reactant | hydrobromic acid | 100 ml | Br | BrH
solvent | water | 500 ml | O | H2O
product | 2,6-diamino-4,5,6,7-tetrahydro-benzthiazole | NC=1SC2=C(N1)CCC(C2)N | C7H11N3S
